US07947684B2
C. 7-Bromo-1-chloroisoquinoline
7-Bromo-2H-isoquinolin-1-one (3.0 g, 13.4 mmol), phosphorus oxychloride (8.22 g, 53.6 mmol), and chloroform (25 mL) combined in a sealed tube and heated with stirring at 100° C. for 4 hours. Cooled to ˜60° C., poured into ice water (100 mL), neutralized carefully with saturated aqueous sodium hydrogencarbonate, extracted into methylene chloride and dried over magnesium sulfate. Flash column chromatography on silica gel gave the product as a pale cream solid (2.01 g, 8.3 mmol). 1H NMR (CDCl3) δ 8.51 (d, 1H), 8.30 (d, 1H), 7.82 (dd, 1H), 7.72 (d, 1H), 7.57 (dd, 1H). ESI MS (M+1)+: 242, 244, 246 (Br, Cl).

reactant | 7-Bromo-2H-isoquinolin-1-one | 13.4 mmol, 3.0 g | BrC1=CC=C2C=CNC(C2=C1)=O | C9H6BrNO
reactant | phosphorus oxychloride | 53.6 mmol, 8.22 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromo-1-chloroisoquinoline | 8.3 mmol, 2.01 g | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
